US06090802
By using 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-(diphenylphosphoryloxy)-1-carbapen-2-em-3-carboxylate (660.8 mg) and (2S,4S)-2-[1-hydroxy-2-[(3S)-3-(N-methyl-N-4-nitrobenzyloxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl)ethyl]-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (683.5 mg), reaction and purification were carried out in a similar manner to that described in Example 40-(1), whereby 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-2-[(2S,4S)-2-[1-hydroxy-2-[(3S)-3-(N-methyl-N-4-nitrobenzyloxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]ethyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-1-methyl-1-carbapen-2-em-3-carboxylate (841.4 mg) was obtained.

reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-(diphenylphosphoryloxy)-1-carbapen-2-em-3-carboxylate | 660.8 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C29H27N2O8P
reactant | (2S,4S)-2-[1-hydroxy-2-[(3S)-3-(N-methyl-N-4-nitrobenzyloxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl)ethyl]-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 683.5 mg | OC(CC(=O)N1C[C@H](CC1)CN(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H35N5O10S
product | 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-2-[(2S,4S)-2-[1-hydroxy-2-[(3S)-3-(N-methyl-N-4-nitrobenzyloxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]ethyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-1-methyl-1-carbapen-2-em-3-carboxylate | 841.4 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(CC(=O)N2C[C@H](CC2)CN(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C46H51N7O16S
